* VioAVR PWM-to-VDMOS Co-Simulation Circuit (Optimized Speed)

* Power Supplies
V_gate_supply  v12  0  DC 12.0
V_power_supply v24  0  DC 24.0

* digital-to-analog bridge for AVR Pin PB1 (mapped to external pin 1)
a_mcu_bridge [pb1_dig] [pb1_an] dac_model
.model dac_model dac_bridge(out_low=0.0 out_high=5.0)

* BJT Gate Driver Circuit
* Base Resistor
R_base pb1_an base 1k
* NPN BJT
Q_driver gate_vdmos base 0 Q2N2222
* Gate Pull-up to 12V
R_pullup v12 gate_vdmos 470

* VDMOS Power Stage
* VDMOS Transistor (Drain Gate Source Bulk)
M_power drain_vdmos gate_vdmos 0 0 IRF540
* Load Resistor (10 ohms -> 2.4A at 24V)
R_load v24 drain_vdmos 10

* VVDMOS Feedback divider (6:1 scale factor: 20k and 4k divide 24V down to 4V max)
R_div1 drain_vdmos v_sense 20k
R_div2 v_sense 0 4k
C_filter v_sense 0 10n

* VioAVR MCU Block
A_AVR [nc pb1_dig] [v_sense] mcu_model
.model mcu_model d_vioavr(mcu_type="atmega328" frequency=16e6 quantum_cycles=16 hex_file="/home/jnd/cpp_projects/VioAVR/scratch/pwm_vdmos_demo/pwm_driver.hex")

* Transistor Models
.model Q2N2222 NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=255.9 Ne=1.307
+ Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1
+ Cjc=7.306p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75
+ Tr=46.91n Tf=411.1p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)

.model IRF540 VDMOS(Rg=1.0 Vto=3.0 Rd=40m Rs=10m Rb=20m Kp=8.0 Lambda=10m
+ Cgdmax=1.0n Cgdmin=0.1n Cgs=1.5n Cds=0.5n Is=1e-12)

* Simulation Controls & SPICE Solver Options for Speed
.options reltol=0.005 method=gear trtol=7 chgtol=1e-13
.tran 1us 1.5ms
.control
codemodel /home/jnd/cpp_projects/VioAVR/build_release/viospice.cm
run
print v(pb1_an) v(gate_vdmos) v(drain_vdmos)
.endc
.end
